US04036955
A solution of 4.8 g of N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine tert-butyl ester in 10 ml of trifluoroacetic acid was stirred for 5 hours at room temperature. At the end of this period, the reaction mixture was evaporated to dryness. The residue was washed several times with dry diethyl ether and chromatographed on 300 ml of Daiaion® SA 10A ion exchange resin (100-200 mesh, OH- form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with 50% ethanol-water and eluted with ethanol-water-acetic acid solution (5:4:1). The main fraction eluted from the ethanol-water-acetic acid solution was evaporated to dryness to give a gummy material. This was recrystallized from ethanol-water to give 2.8 g of N2 -(7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine in the form of a powder.

reactant | N2 (7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine tert-butyl ester | 4.8 g | N#N.C(C)(C)(C)OC(CN(CC1CCCO1)C([C@@H](NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)CCCNC(N)=N)=O)=O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N2 (7-methoxy-2-naphthalenesulfonyl)-L-arginyl-N-tetrahydrofurfurylglycine | 2.8 g | N#N.COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CC1CCCO1 | InChI=1S/C24H33N5O7S.N2/c1-35-18-8-6-16-7-9-20(13-17(16)12-18)37(33,34)28-21(5-2-10-27-24(25)26)23(32)29(15-22(30)31)14-19-4-3-11-36-19;1-2/h6-9,12-13,19,21,28H,2-5,10-11,14-15H2,1H3,(H,30,31)(H4,25,26,27);/t19?,21-;/m0./s1
